US09193681B1
Ethyl (2R)-3-{[(2S)-2-amino-3-methylbutanoyl]sulfanyl}-2-acetamidopropanoate hydrochloride
ethyl (2R)-3-{[(2S)-2-{[(tert-butoxy)carbonyl]amino}-3-methylbutanoyl]sulfanyl}-2-acetamidopropanoate (570 mg) was dissolved in a solution of hydrogen chloride (4N) in 1,4-dioxane (15 mL) and the reaction was stirred for 5 hours. The reaction mixture was concentrated at reduced pressure, triturated with ethyl acetate (15 mL) for 1 hour, filtered and dried to give the product as a white solid (430 mg, 90%). 1H NMR (300 MHz, DMSO) δ=8.63-8.48 (m, 4H), 4.41 (dt, J=5.3, 8.4 Hz, 1H), 4.17-4.04 (m, 4H), 3.55-3.45 (m, 2H), 3.12 (dd, J=8.6, 13.6 Hz, 1H), 2.17 (dt, J=5.0, 6.9 Hz, 1H), 1.83 (s, 3H), 1.21-1.15 (m, 3H), 0.96 (d, J=7.0 Hz, 3H), 0.93 (d, J=7.0 Hz, 3H). MS (ESI) m/z 291 (M+1)′.

reactant | ethyl (2R)-3-{[(2S)-2-{[(tert-butoxy)carbonyl]amino}-3-methylbutanoyl]sulfanyl}-2-acetamidopropanoate | 570 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)SC[C@@H](C(=O)OCC)NC(C)=O)C(C)C | C17H30N2O6S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | Ethyl (2R)-3-{[(2S)-2-amino-3-methylbutanoyl]sulfanyl}-2-acetamidopropanoate hydrochloride | 430 mg, 90% | Cl.N[C@H](C(=O)SC[C@@H](C(=O)OCC)NC(C)=O)C(C)C | InChI=1S/C12H22N2O4S.ClH/c1-5-18-11(16)9(14-8(4)15)6-19-12(17)10(13)7(2)3;/h7,9-10H,5-6,13H2,1-4H3,(H,14,15);1H/t9-,10-;/m0./s1
